US08222416B2
A mixture of 2-[2-cyclopentyl-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (70 mg, 0.2 mmol) and 10% palladium on activated carbon (21 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 5 h. The mixture was cooled to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[2-cyclopentyl-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (40 mg, 57%): LC/MS m/e calcd for C22H24N2O2 [M+H]+ 349.45, observed 349.3; 1H NMR (400 MHz, CDCl3) δ ppm 1.17 (m, 2H), 1.47 (m, 2H), 1.61 (m, 2H), 1.77 (m, 3H), 2.08 (m, 1H), 2.16 (m, 1H), 4.07 (m, 1H), 4.22 (s, 4H, 2×OCH2), 6.33 (s, 1H), 6.79 (m, 3H), 7.05 (dd, J=4.6, 7.8 Hz, 1H), 7.87 (d, J=7.8 Hz, 1H), 8.15 (d, J=4.6 Hz, 1H), 10.66 (br, 1H).

reactant | 2-[2-cyclopentyl-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.2 mmol, 70 mg | C1(CCCC1)C=C(C1=CC2=C(OCCO2)C=C1)C1=CC=2C(=NC=CC2)N1 | C22H22N2O2
catalyst | palladium on activated carbon | 21 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 40 mg, 57% | C1(CCCC1)CC(C1=CC2=C(OCCO2)C=C1)C1=CC=2C(=NC=CC2)N1 | C22H24N2O2
